US05218109
To a solution of 51 mg of 20-methyl-1α,3β-diacetoxy-21-p-toluenesulfonyloxypregna-5,7-diene in 5 ml of acetone was added 100 mg of lithium bromide and the mixture was heated under reflux for 10 hours. The same isolation and purification procedure in Example 47 gave mg of 21-bromo-20-methyl-1α,3β-diacetoxypregna-5,7-diene, whose 1H NMR spectrum was identical with that obtained in Example 12.

reactant | 20-methyl-1α,3β-diacetoxy-21-p-toluenesulfonyloxypregna-5,7-diene | 51 mg | CC(COS(=O)(=O)C1=CC=C(C=C1)C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C)=O)OC(C)=O | C33H44O7S
reactant | lithium bromide | 100 mg | [Br-].[Li+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 21-bromo-20-methyl-1α,3β-diacetoxypregna-5,7-diene | BrCC([C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C)=O)OC(C)=O)C | C26H37BrO4
